US05925658
(1S)-N-(t-Butoxycarbonyl)-1-methyl-2-nitroxyethylamine
In 200 ml of dry acetonitrile were suspended 17.9 g of nitronium tetrafluoroboron, and 17.5 ml of 2,4,6-collidine were added dropwise thereto at -5° C. to 0° C. under a nitrogen stream. The reaction mixture was stirred at 0° C. for 30 minutes, 10.7 g of N-t-butoxycarbonyl-L-alaninol were added thereto, and the mixture was stirred at room temperature for 1 hour and 20 minutes. Then, the solvent was distilled off under reduced pressure and ethyl acetate was added to the residue. The insolubles were filtered off and the filtrate was evaporated to dryness under reduced pressure. The thus obtained yellow oil was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (9:1) as an eluent to obtain 7.12 g of the desired compound as a colorless oil.

reactant | nitronium tetrafluoroboron | 17.9 g | [B-](F)(F)(F)F.[N+](=O)=O
reactant | 2,4,6-collidine | 17.5 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | N-t-butoxycarbonyl-L-alaninol | 10.7 g | C(C)(C)(C)OC(=O)N[C@@H](C)CO | C8H17NO3
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (1S)-N-(t-Butoxycarbonyl)-1-methyl-2-nitroxyethylamine | 7.12 g | C(C)(C)(C)OC(=O)N[C@H](CO[N+](=O)[O-])C | C8H16N2O5
